US04994596
A process which comprises reacting isobutylbenzene with sodium cyanide and acetyl chloride in the presence of aluminum chloride at a temperature of about 60°-120° C. to form 1-cyano-1-(4-isobutylphenyl)ethene.

reactant | isobutylbenzene | C(C(C)C)C1=CC=CC=C1 | C10H14
reactant | sodium cyanide | [C-]#N.[Na+]
reactant | acetyl chloride | C(C)(=O)Cl | C2H3ClO
reactant | aluminum chloride | [Cl-].[Al+3].[Cl-].[Cl-]
product | 1-cyano-1-(4-isobutylphenyl)ethene | C(#N)C(=C)C1=CC=C(C=C1)CC(C)C | C13H15N
